US06277877B1
(S)-(1-Benzyl-2-oxo-2-thiazolidin-3-yl-ethyl)-carbamic acid tert-butyl ester
Thiazolidine (38 mmol) and Boc-L-phenylalanine (19 mmol) were coupled according to Procedure A (0-25° C. reaction temperature, washed with acid then base) and the product used without further purification. Yield 5.5 g, 86%.

reactant | Thiazolidine | 38 mmol | S1CNCC1 | C3H7NS
reactant | Boc-L-phenylalanine | 19 mmol | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
product | (S)-(1-Benzyl-2-oxo-2-thiazolidin-3-yl-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H](C(N1CSCC1)=O)CC1=CC=CC=C1)=O | C17H24N2O3S
